US04582909
Preparation of 1-(4-methoxybenzoyl)-1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid
A solution of 1-(4-methoxybenzoyl)-1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid phenylmethyl ester (10 g, 0.023 mole) is dissolved in tetrahydroferan (250 ml) and 1 g of 20% Pd/C is added. The mixture is shaken under an atmosphere of H2 gas until H2 absorption is complete. The mixture is filtered and concentrated at reduced pressure to yield after trituration with anhydrous diethylether and drying, 1-(4-methoxybenzoyl)-1,2,3, 4-tetrahydro-2-oxo-8-quinolinepropanoic acid.

reactant | 1-(4-methoxybenzoyl)-1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid phenylmethyl ester | 0.023 mole, 10 g | C1(=CC=CC=C1)COC(CCC=1C=CC=C2CCC(N(C12)C(C1=CC=C(C=C1)OC)=O)=O)=O | C27H25NO5
solvent | Pd/C | 1 g | [Pd] | Pd
product | 1-(4-methoxybenzoyl)-1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid | COC1=CC=C(C(=O)N2C(CCC3=CC=CC(=C23)CCC(=O)O)=O)C=C1 | C20H19NO5
